US03973946
To a mixture of 6.5 g of commercially available 1-(2-aminoethyl)-2-imidazolidone and 50 ml benzene was added 5.5 ml of phenyl isocyanate. The strongly exothermic reaction was moderated by cooling to 25°. The mixture was stirred at 25° for 4 hr. It was cooled in ice and the mixture was filtered. The solid product was crystallized from 250 ml of acetone to give 6.8 g of white 1-[2-(2-oxo-1-imidazolidinyl)ethyl]-3-phenylurea, mp 162°-164°.

reactant | 1-(2-aminoethyl)-2-imidazolidone | NCCN1C(NCC1)=O | C5H11N3O
reactant | phenyl isocyanate | 5.5 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-[2-(2-oxo-1-imidazolidinyl)ethyl]-3-phenylurea | 6.8 g | O=C1N(CCN1)CCNC(=O)NC1=CC=CC=C1 | C12H16N4O2
